US06538004B2
4-(3-bromo4-fluorophenyl)-1-methyl-1,2,4,6,7,8-hexahydrocyclopenta[b]pyrazolo[4,3-e]pyridine-3,5-dione
5-Amino-1-methyl-1,2-dihydropyrazol-3-one (0.23 g, 2 mmol), prepared as described in (C. Taylor and J. Barton, J.Am.Chem. Soc., (1959) 81, 2448), 3-bromo4-fluorobenzaldehyde (0.4 g, 2 mmol), and 1,3-cyclopentanedione (0.2 g, 2 mmol) in ethyl alcohol (4 mL) were heated at 80° C. for 2 days in a sealed tube. The reaction was cooled and the resulting precipitate was filtered off to provide 0.6 g (79%) of the title compound as a tan solid. 1H NMR (300 MHz, DMSO-d6) δ 2.3 (t, 2H), 2.69 (m, 2H), 3.5 (s, 3H), 4.7 (s, 1H), 7.15 (m, 1H), 7.2 (t, 1H), 7.39 (dd, 1H), 9.56 (s, 1H), 10.42(s, 1H); MS (ESI+) m/z 380 (M+H)+; Anal. calcd for C16H13N3BrFO2.C2H6O: C, 50.96;H, 4.51; N, 9.90. Found: C, 50.51; H, 4.58; N, 9.79.

reactant | 5-Amino-1-methyl-1,2-dihydropyrazol-3-one | 2 mmol, 0.23 g | NC1=CC(NN1C)=O | C4H7N3O
reactant | 3-bromo4-fluorobenzaldehyde | 2 mmol, 0.4 g | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
reactant | 1,3-cyclopentanedione | 2 mmol, 0.2 g | C1(CC(CC1)=O)=O | C5H6O2
solvent | ethyl alcohol | 4 mL | C(C)O | C2H6O
product | 4-(3-bromo4-fluorophenyl)-1-methyl-1,2,4,6,7,8-hexahydrocyclopenta[b]pyrazolo[4,3-e]pyridine-3,5-dione | 0.6 g, 79% | BrC=1C=C(C=CC1F)C1C2=C(NC3=C1C(NN3C)=O)CCC2=O | C16H13BrFN3O2
